US06255494B1
Preparation of α-benzyl-γ-butyrolactone (3-benzyl-3,4-dihydrofuran-2-one)
To a solution of diisopropylamine (15.18 g, 0.15 mol) in dry tetrahydrofuran (200 ml) at −78° C. under a nitrogen atmosphere, n-butyllithium (1.6 M in hexanes, 94 ml, 0.15 mol) was added dropwise. After twenty minutes of stirring at −78° C., γ-butyrolactone (12.91 g, 0.15 mol) was added dropwise, such that the reaction temperature was maintained below −70° C. After twenty minutes of stirring at −78° C., a mixture of benzyl bromide (25.65 g, 0.15 mol) and hexamethylphosphoramide (26.85 g, 0.15 mol) was added dropwise to the reaction mixture. The reaction mixture was then permitted to warm to −30° C. and stirred at this temperature for two hours.

reactant | diisopropylamine | 0.15 mol, 15.18 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.15 mol, 1.6 M, 94 ml | C(CCC)[Li]
reactant | γ-butyrolactone | 0.15 mol, 12.91 g | C1(CCCO1)=O | C4H6O2
reactant | benzyl bromide | 0.15 mol, 25.65 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexamethylphosphoramide | 0.15 mol, 26.85 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | α-benzyl-γ-butyrolactone | C(C1=CC=CC=C1)C1C(=O)OCC1 | C11H12O2
